US07452892B2
Preparation of 2-(4-(trifluoromethyl)benzyl)-7-(4-chlorophenyl)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirred solution of 7-(4-chlorophenyl)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one and/or trichloromethyl 2-(6-(4-chlorophenyl)-5-phenylpyrimidin-4-yl)hydrazinecarboxylate (16.0 mg, 0.05 mmol) in acetone (5 mL) at room temperature under argon was added 1-(bromomethyl)-4-(trifluoromethyl)benzene (23.9 mg, 0.10 mmol), followed by K2CO3 (13.8 mg, 0.10 mmol). The resulting mixture was heated at 60° C. for 24 h. Insoluble material was filtered and rinsed with CH2Cl2. The filtrate was concentrated under reduced pressure and purified by reverse phase preparative HPLC (without TFA). Further purification was performed by silica gel column chromatography eluting with EtOAc-hexanes. Pure product was lyophilized from 1,4-dioxane to obtain the title compound (5.0 mg) as an off-white lyophilate. HPLC/MS: retention time=4.18 min. [M+H]30 =481. 1H NMR (CDCl3): δ 8.70 (s, 1H), 7.65 (d, J=7.3 Hz, 2H), 7.55 (d, J=7.3 Hz, 2H), 7.23-7.46 (m, 7H), 7.20 (d, J=7.2 Hz, 2H), 5.18 (s, 2H).

reactant | 7-(4-chlorophenyl)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=N1)C(NN2)=O)C2=CC=CC=C2 | C17H11ClN4O
reactant | trichloromethyl 2-(6-(4-chlorophenyl)-5-phenylpyrimidin-4-yl)hydrazinecarboxylate | 0.05 mmol, 16.0 mg | ClC1=CC=C(C=C1)C1=C(C(=NC=N1)NNC(=O)OC(Cl)(Cl)Cl)C1=CC=CC=C1 | C18H12Cl4N4O2
reactant | 1-(bromomethyl)-4-(trifluoromethyl)benzene | 0.10 mmol, 23.9 mg | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
reactant | K2CO3 | 0.10 mmol, 13.8 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-(4-(trifluoromethyl)benzyl)-7-(4-chlorophenyl)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 5.0 mg | FC(C1=CC=C(CN2N=C3N(C=NC(=C3C3=CC=CC=C3)C3=CC=C(C=C3)Cl)C2=O)C=C1)(F)F | C25H16ClF3N4O
